Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Lipitor / Mevacor / Efudex
 
Attending: ___
 
Chief Complaint:
Episodes of slurred speech
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old right-handed man PMHx HLD, HTN,
and pericarditis ___, unclear etiology) who presents with
episodes of slurred speech for ~18 hours.

On ___ around 20:00, pt suddenly noticed that he was "jumbling
my words" when talking. This lasted only seconds and then
resolved. This AM, pt work up and again had an episode of
slurring his words like "my tongue was in the way" and "sounds
were muddled". Pt specifically had difficulty saying the words
"envision" and "bloody". Wife noticed this and grew concerned so
PCP was called. PCP then referred pt to ED.

At the time of my assessment, pt continues to note stumbling 
over
certain words (subtle) but symptoms are improved. Pt denies any
weakness, numbness, facial drooping, diplopia, difficulty
comprehending words, difficulty with word finding, headache or
fever.

He also reports a "split second" episode of feeling "like my
tongue couldn't form words" a few days ago. He has never had
similar symptoms before.

Of note, pt also had an episode of feeling "uncomfortable" and
"spacey" while driving home ___. He had to pull over to switch
driving with his wife which is extremely unusual. He also 
reports
poor sleep ___ and ___ ___. He has chronic insomnia and
reports only sleeping ___ hours each night those nights, 
although
this has happened before. He did sleep well ___ ___ (about 7
hours) and ___ ___ (about 7 hours, took Zyquil). 

On neurologic review of systems, the patient reports imbalance
with walking for weeks but he is able to walk in a steady 
manner.
Pt denies current headache, lightheadedness, or confusion. 
Denies
difficulty with comprehending speech. Denies loss of vision,
blurred vision, diplopia, vertigo, tinnitus, hearing difficulty,
or dysphagia. Denies focal muscle weakness, numbness,
parasthesia. Denies loss of sensation. Denies bowel or bladder
incontinence or retention.

On general review of systems, the patient reports intermittent
palpitations. Pt denies fevers, chest pain, cough, nausea,
vomiting, diarrhea, constipation, abdominal pain, dysuria or
rash.

 
Past Medical History:
HTN                                             
BASAL CELL EPITHELIOMA                                          
BENIGN PROSTATIC HYPERTROPHY                               
GASTROESOPHAGEAL REFLUX                                         
GOUT                                                            
HYPERCHOLESTEROLEMIA                                            
PERICARDITIS ___, unclear etiology)            
SQUAMOUS CELL CARCINOMA                                         
VASECTOMY                                           
LOW BACK PAIN                                                   
GASTRIC HYPERPLASTIC POLYPS                                     
SPINAL STENOSIS                                                
 
Social History:
___
Family History:
Relative  Status    Age Problem              Comments           
Brother   F/H EARLY CAD                      pt with multiple   
                                             negative stress    
                                             ___ followed by 
                                             ___
No family history of strokes.   
Mother had MI.        

 
Physical Exam:
Vitals: 96.0 100 156/87 18 97% RA 
General: NAD, resting in bed
HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
Neck: Supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Recalls a 
coherent
history. Speech is fluent with full sentences, intact 
repetition,
and intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. No dysarthria appreciated during my
evaluation. Palate elevation symmetric. Trapezius strength ___
bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Ambulates independently in a steady manner.

==============
DISCHARGE EXAM
==============
Essentially unchanged; normal. 
 
Pertinent Results:
====
LABS
====
___ 11:40AM BLOOD WBC-6.3 RBC-4.27* Hgb-13.5* Hct-41.1 
MCV-96 MCH-31.6 MCHC-32.8 RDW-12.6 RDWSD-44.2 Plt ___
___ 05:10AM BLOOD WBC-6.0 RBC-3.90* Hgb-12.8* Hct-36.9* 
MCV-95 MCH-32.8* MCHC-34.7 RDW-12.6 RDWSD-43.4 Plt ___
___ 11:40AM BLOOD Neuts-59.2 ___ Monos-7.4 Eos-1.9 
Baso-0.8 Im ___ AbsNeut-3.73 AbsLymp-1.92 AbsMono-0.47 
AbsEos-0.12 AbsBaso-0.05
___ 11:40AM BLOOD ___ PTT-30.0 ___
___ 11:40AM BLOOD Glucose-72 UreaN-14 Creat-0.8 Na-138 
K-4.2 Cl-103 HCO3-24 AnGap-15
___ 05:10AM BLOOD Glucose-74 UreaN-14 Creat-0.7 Na-142 
K-3.7 Cl-105 HCO3-25 AnGap-16
___ 11:40AM BLOOD ALT-17 AST-27 AlkPhos-45 TotBili-0.4
___ 11:40AM BLOOD Albumin-4.3 Calcium-9.3 Phos-2.8 Mg-1.9
___ 03:27PM BLOOD %HbA1c-5.2 eAG-103
___ 05:10AM BLOOD Triglyc-116 HDL-54 CHOL/HD-2.7 LDLcalc-68
___ 11:40AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 01:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 01:00PM URINE Color-Straw Appear-Clear Sp ___
___ 01:00PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

=======
IMAGING
=======
- ___ CT Head WO Contrast
1. No evidence for acute intracranial abnormality on noncontrast 
head CT.  
Specifically no large territory infarct or intracranial 
hemorrhage. 
2. MRI, if there are no contraindications would be more 
sensitive for infarct. 

- ___ CTA Head & Neck W Contrast (preliminary read; neurology 
read in agreement)
The carotid and vertebral arteries and the vessels of the circle 
___ and their principal intracranial branches appear 
normal without stenosis, 
occlusion or aneurysm formation. 

- ___ MRI Head WO Contrast
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction.   The ventricles and sulci are 
normal in caliber and 
configuration.  Principal intracranial vascular flow voids are 
preserved.  
Paranasal sinuses, mastoid air cells, middle ear cavities are 
patent. 
IMPRESSION:   
1. Normal brain MRI. 
 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with HTN and HLD who presented 
with ___ transient episodes of speech difficulty (intermittent, 
single word, self-corrected paraphasic errors) for 1 day prior 
to admission, as well as an episode of feeling "strange" and 
dissociated while driving. His exam was essentially normal on 
presentation, but a stroke work-up was undertaken with normal 
CTA head and neck, as well as normal MRI. Further work-up was 
deferred given additional history of severely deficient sleep 
(~1 hour/night) over the preceding ___ days. He has a history of 
difficulty with sleep initiation (despite 1200mg of gabapentin 
nightly). He preferred to avoid trying any new sleeping 
medication (such as trazodone) so we recommended increasing his 
melatonin from 1mg to 3mg nightly. We made him a follow-up 
appointment with the neurology resident clinic in ___, in 
case there is persistence of his symptoms. We also provided him 
with a referral and appointment to sleep medicine in ___. 


We did not pursue further stroke work-up, as above. However we 
note that he has not had a cardiac echo since ___. Given his 
hypertension, we contacted his PCP regarding repetition of this 
study. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. esomeprazole magnesium 40 mg oral DAILY 
3. Finasteride 5 mg PO DAILY 
4. Gabapentin 1200 mg PO QHS 
5. Ketoconazole 2%  1 Appl TP BID 
6. Nadolol 20 mg PO DAILY 
7. Pravastatin 20 mg PO DAILY 
8. Sucralfate 1 gm PO BID 
9. Terazosin 2 mg PO QHS 
10. Aspirin EC 81 mg PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 
12. coenzyme Q10 100 mg oral DAILY 
13. Melatin (melatonin) 1 mg oral QHS 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  Aspirin EC 81 mg PO DAILY  
3.  coenzyme Q10 100 mg oral DAILY  
4.  esomeprazole magnesium 40 mg oral DAILY  
5.  Finasteride 5 mg PO DAILY  
6.  Gabapentin 1200 mg PO QHS  
7.  Ketoconazole 2%  1 Appl TP BID  
8.  Melatin (melatonin) 1 mg oral QHS  
9.  Nadolol 20 mg PO DAILY  
10.  Pravastatin 20 mg PO DAILY  
11.  Sucralfate 1 gm PO BID  
12.  Terazosin 2 mg PO QHS  
13.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sleep deprivation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 
You were admitted for symptoms of brief speech difficulty and 
feeling "spacey" concerning for stroke.  Imaging of your blood 
vessels by CTA (CT angiogram with dye), and detailed images of 
your brain with MRI showed no stroke. The brevity of your 
symptoms was not consistent with stroke (or even transient 
ischemic attach or "mini stroke"). Your symptoms were consistent 
with the history you provided of recent acute sleep deficiency. 

Continue taking your prior medication regimen. 

We made you a follow-up neurology appointment with Dr. ___ 
___ you saw in the hospital) and ___ (attending), to 
assess if these symptoms have recurred. If they do not recur and 
you do not wish to keep the appointment, please call the number 
provided below in the appointments section. 

We also made you an appointment with sleep medicine (see below). 


If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). 
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___